US09334480B2
In a 250 mL round-bottomed flask, methyl 2,3-diaminobenzoate (1.5 g, 9.03 mmol) was combined with methanol (25 mL) to give a yellow solution that was stirred under nitrogen and cooled in a water/dry ice bath. To this was added drop wise 4-iodo-2-methoxynicotinaldehyde (2.37 g, 9.03 mmol) dissolved in methanol (15 mL) and DMF (10 mL). During the addition more methanol (25.0 mL) was added to the reaction. The reaction was kept in the water/dry ice bath for 2.5 hr, allowed to warm to room temperature over 3 hr, and then cooled in a water/dry ice bath. To this was added drop wise iodine (1.49 g, 5.87 mmol) dissolved in methanol (15 mL) and then the reaction was allowed to warm to room temperature overnight. The reaction was concentrated, diluted with ethyl acetate (200 mL) and saturated Na2S2O3 (200 mL) and mixed. Significant insoluble material was present and the mixture was filtered. The resulting solid was washed with ethyl acetate and water. The filtrate was separated and the resulting aqueous layer was extracted with ethyl acetate (100 mL) and DCM (3×150 mL). The organic layers were washed with saturated Na2S2O3 and brine, combined, dried over MgSO4, and concentrated as a red oil/solid. The insoluble solid from the original extract was washed with DCM (5×100 mL) and the filtrate was concentrated as a dark red/black solid. The liquid extracted crude and the solid extract crude were dissolved in minimal DCM, combined, and purified by flash chromatography (silica gel, 120 g, 0% to 60% ethyl acetate in hexanes) to give 2-(4-iodo-2-methoxy-pyridin-3-yl)-3-H-benzoimidazole-4-carboxylic acid methyl ester, as a purple solid, 0.73 g LC/MS calcd for C15H12IN3O3 (m/e) 409.0, obsd 410.0 (M+H); 1H NMR (DMSO-d6) δ: 12.68 (s, 1H), 8.05 (d, J=5.5 Hz, 1H), 8.01 (d, J=8.0 Hz, 1H), 7.88-7.95 (m, 1H), 7.67 (d, J=5.3 Hz, 1H), 7.38 (t, J=7.9 Hz, 1H), 3.96 (s, 3H), 3.82 (s, 3H). The original insoluble solid remaining after being extracted with DCM was subsequently extracted with boiling methanol (5×20 ml). The methanol filtrate was concentrated and dried, yielding additional product (83% pure by LCMS), as the sodium salt (assumed) and as a dark purple solid, 0.57 g. The remaining original insoluble solid after the DCM and methanol extractions yielded additional product (90% pure by LCMS), as the sodium salt (assumed) and as a purple solid, 0.88 g. The combined yield was 59%.

reactant | methyl 2,3-diaminobenzoate | 9.03 mmol, 1.5 g | NC1=C(C(=O)OC)C=CC=C1N | C8H10N2O2
reactant | 4-iodo-2-methoxynicotinaldehyde | 9.03 mmol, 2.37 g | IC1=CC=NC(=C1C=O)OC | C7H6INO2
reactant | water dry ice | O.C(=O)=O
reactant | iodine | 5.87 mmol, 1.49 g | II | I2
solvent | methanol | 15 mL | CO | CH4O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | methanol | 15 mL | CO | CH4O
solvent | methanol | 25.0 mL | CO | CH4O
solvent | methanol | 25 mL | CO | CH4O
product | 2-(4-iodo-2-methoxy-pyridin-3-yl)-3-H-benzoimidazole-4-carboxylic acid methyl ester | yield was 59% | COC(=O)C1=CC=CC=2N=C(NC21)C=2C(=NC=CC2I)OC | C15H12IN3O3
